US04804499
A 100 ml 3-necked flask was equipped with a magnetic stir bar, thermometer, condenser and an addition funnel. To this flask were added 1,4-diisopropyl-2,5-diketopiperazine (1.98 g; 10.0 mmol), water (25 ml), concentrated hydrochloric acid (10 ml), and phosphorous acid (1.72 g; 21 mmol). The resulting mixture was heated rapidly to 105° C. At this point, a solution of 37% formaldehyde in water (1.95 g; 24 mmol) was added slowly drop-wise to the mixture. Upon completion of the addition of formaldehyde, the reaction mixture was heated at 104°-105° C. for 17 hours. Analysis of the reaction mixture by HPLC indicated the presence of 1.49 g (70.7% yield) of N-isopropyl-N-phosphonomethylglycine.

reactant | 1,4-diisopropyl-2,5-diketopiperazine | 10.0 mmol, 1.98 g | C(C)(C)N1C(CN(C(C1)=O)C(C)C)=O | C10H18N2O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | phosphorous acid | 21 mmol, 1.72 g | P(O)(O)O | H3O3P
reactant | formaldehyde | C=O | CH2O
solvent | water | 25 ml | O | H2O
solvent | water | 24 mmol, 1.95 g | O | H2O
product | N-isopropyl-N-phosphonomethylglycine | 1.49 g, 70.7% yield | C(C)(C)N(CC(=O)O)CP(=O)(O)O | C6H14NO5P
